US05869519
N-[(1-Phenylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester
DMAP (122 mg, 1.0 mmol) and EDAC (249 mg, 1.3 mmol) were added as solids to a DMF solution of 1-phenylindole-2-carboxylic acid (237 mg, 1.0 mmol in 2 mL DMF), and the resultant reaction mixture was stirred for 10 minutes under a nitrogen atmosphere at 0° C. A methylene chloride solution of N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (306 mg, 1.0 mmol in 2 mL of methylene chloride) was added to the reaction mixture and the mixture was stirred for 1 hour under a nitrogen atmosphere at 0° C. and 4 hours at room temperature. The yellow reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution and the aqueous solution was back-extracted with ethyl acetate. The combined ethyl acetate solutions were washed with 5% KHSO4 solution, saturated sodium bicarbonate solution (2×) and brine, dried over sodium sulfate, and concentrated to give a colorless film (0.827 g). The film was subjected to flash chromatography on silica gel with ethyl acetate/hexanes (1:2) to yield the title product as a white foam (400 mg, 78%). TLC: (ethyl acetate/hexanes 1:1): Rf =0.27.

reactant | EDAC | 1.3 mmol, 249 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-phenylindole-2-carboxylic acid | 1.0 mmol, 2 mL, 237 mg | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)O | C15H11NO2
reactant | N-(valinyl)-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 1.0 mmol, 2 mL, 306 mg | N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C14H27FN2O4
catalyst | DMAP | 1.0 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[(1-Phenylindole-2-Carbonyl)Valinyl]-3-Amino-4-Hydroxy-5-Fluoropentanoic Acid, t-Butyl Ester | 400 mg, 78% | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C29H36FN3O5
